US04681972
N-(tert.-Butoxycarbonyl)-4(S)-amino-3(R,S)-hydroxy-5-phenylpentanoic Acid. Ethyl Ester
A solution of 92.4 ml (0.706 moles) of diisopropylamine in 600 ml of tetrahydrofuran was cooled to -35° and 271.1 ml (0.706 moles) of a 2.6M solution of n-butyl lithium in heptane was added slowly. The solution was then cooled to -85° in an ethanol/liquid nitrogen bath and 68.9 g (0.706 moles) of ethyl acetate was added slowly keeping the reaction temperature below -80°. After stirring for 15 minutes, a solution of 125.5 g (0.504 moles) of Boc-phenylalaninal [J. A. Fehrentz and B. Castro, Synthesis, 676 (1983).] in 1 L. of tetrahydrofuran, precooled to -78°, was added dropwise, keeping the temperature below -80°. After stirring at -80° for 15 minutes, the solution was allowed to warm to -5° and 400 ml of 12% hydrochloric acid was added. The pH was adjusted to 2.0 and the solution extracted twice with ether. The combined ether solution was washed with 1N hydrochloric acid, water, saturated sodium bicarbonate, and then with saturated sodium chloride solution. After drying over magnesium sulfate the ether was removed under reduced pressure to give 154 g. (90.6% yield) of the crude product as a white solid sufficiently pure for use in the next step.

reactant | diisopropylamine | 0.706 moles, 92.4 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | C(CCC)[Li]
reactant | ethyl acetate | 0.706 moles, 68.9 g | C(C)(=O)OCC | C4H8O2
reactant | Boc-phenylalaninal | 0.504 moles, 125.5 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)C=O | C14H19NO3
reactant | hydrochloric acid | 400 ml | Cl | ClH
solvent | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
solvent | heptane | CCCCCCC | C7H16
product | N-(tert.-Butoxycarbonyl)-4(S)-amino-3(R,S)-hydroxy-5-phenylpentanoic Acid. Ethyl Ester | 90.6% yield | C(C)(C)(C)OC(=O)N[C@H](C(CC(=O)OCC)O)CC1=CC=CC=C1 | C18H27NO5
